US20010027196A1
5-Chloro-6-furan-2-yl-N4-(2-methoxy-ethyl)-pyrimidine-2,4-diamine
From 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine and 2-methoxyethylamine in DME. ES-MS m/e (%): 271 (M{37Cl}+H+, 43), 269 (M{35Cl}+H+, 100).

reactant | 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8ClN3O2S
reactant | 2-methoxyethylamine | COCCN | C3H9NO
solvent | DME | COCCOC | C4H10O2
product | 5-Chloro-6-furan-2-yl-N4-(2-methoxy-ethyl)-pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1C=1OC=CC1)N)NCCOC | C11H13ClN4O2
